Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hematemesis, worsening jaundice
 
Major Surgical or Invasive Procedure:
PTBD drain exchange
GJ tube placement
Radiation (one session) to GE junction

 
History of Present Illness:
___ with PMHx of HTN, GERD, and metastatic esophageal 
adenocarcinoma (HER2-positive, with liver metastases, s/p 
disease progression after 5 cycles of FOLFOX + trastuzumab (at 
___, then initiated on trial protocol with C1D1  
pembrolizumab (palliative intent) on ___, recently admitted 
to OMED for obstructive jaundice, cholangitis, and hematemesis, 
presenting today with continued small-volume hematemesis and 
weakness. Patient went to his outpatient appointment with his 
oncologist and sent to the ED for further evaluation. 

During the prior admission, patient had a 15 day stay and 
multiple ___ procedures to improve  biliary flow, the patient's 
bilirubin was still elevated to 9.3. Most recent PTBD exchange 
happened on ___ and a larger drain was placed for better 
biliary flow. For cholangitis he was initially started on IV 
antibiotics with vanc/zosyn and then transitioned to 
cipro/flagyl, the course of which was completed on ___. He also 
had repeated episodes of hematemesis from an esophageal 
fungating mass requiring multiple blood transfusion during this 
hospitalization. EGD with cryo done on ___ showing slow oozing 
from the mass as expected, but no intervention done given 
hemodynamic stability.

In the ED, initial vitals: 110 126/94  16  100% RA. 
Labs were notable for WBC 15.7, H/H 8.1/25.8, Plt 306. LFTs with 
ALT 53, AST 181, alk phos 198. BMP WNL with BUN/Cr of ___.  
Lactate 2.7.
CXR significant for a right port-a-cath and a PTBD catheter.  
- Patient was given: 1g lorazepam
- Consults: GI, ___ and ERCP consulted who recommended no acute 
intervention at this time. 

On arrival to the MICU, patient denies abdominal pain, 
confusion, fevers, chills. His PCBD draining well with bilious 
output. He reports melena which has been persistent since the 
last hospitalization. As per patient and wife, sent by 
oncologist for XRT of mass vs. repeat EGD w/ cryo, as well as 
placement of a J-tube for improved nutrition prior to C2 of 
pembrolizumab. 
 
REVIEW OF SYSTEMS:  
(+) Per HPI, otherwise negative. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
- ___: EGD for evaluation of his GI symptoms, which 
revealed a large distal esophageal mass, extending from 35 cm to 
40 cm, which was near obstructing and near circumferential. 
Pathology showed a moderately differentiated adenocarcinoma. 
HER2 FISH was positive (ratio 3.8). Staging CT torso showed 
multiple liver mass. CT-guided
biopsy of the liver lesion confirmed metastatic disease from the
esophageal primary. 
- ___: He started palliative chemotherapy with FOLFOX on 
___, with trastuzumab added on ___. He received 5 
cycles of FOLFOX + trastuzumab, under the care of Dr. ___ 
at ___. His last dose was on ___. 
- ___: Restaging CT scan showed progressive disease with 
enlarging liver lesions, the largest one measuring 12 x 5.8 x 8 
cm in the right lobe. Additional large masses were seen within 
the right
and left hepatic lobes. Periportal enlarged lymph nodes were 
also
noted. 
- ___: Liver biopsy 
- ___: Initiation of Palliative C1D1 of pembrolizumab 200mg 
IV
every 3 weeks

PAST MEDICAL HISTORY:
Hypertension
 
Social History:
___
Family History:
 - Mother: esophageal cancer at age ___. 
 - Paternal grandfather: stomach cancer
 
Physical Exam:
Admission Exam:
===============
VITALS: 97.9 105 133/98 14 98%
GENERAL: Jaundiced, Pleasant, lying in bed uncomfortably, 
chronically ill appearing
HEENT: +icteric sclera bilaterally, dry mucosa
CARDIAC: Tachycardic rate but regular rhythm, no murmurs, rubs, 
or gallops
LUNG: CTA on anterior auscultation, on room air, comfortable
ABD: Normal bowel sounds, soft, nontender, distended, no 
caput madusae, PCBD site with slight surrounding erythema, + 
drainage
GU: No foley 
EXT: Warm, well perfused, 2+ ___ Edema
NEURO: Alert, oriented, moves all extremities with purpose 
against gravity  

Discharge Exam:
===============
VS: 99.1 AdultAxillary 132 / 83 130 18 95  
GENERAL: Jaundiced, cachectic, ill-appearing gentleman, more 
alert today
HEENT: +scleral icterus 
CARDIAC: tachycardic, regular rhythm, no murmurs
LUNG: breathing comfortably, no crackles or wheezes in anterior 
fields
ABD: Distended but not tense, tympanic throughout, PCBD drain in 
place in LUQ draining bilious liquid, covered with c/d/I 
dressing
EXT: significant ___ edema to knees bilaterally, warm, well 
perfused
PULSES: 2+ radial pulses,
NEURO: Alert, oriented, motor and sensory function grossly 
intact
SKIN: +jaundice
 

 
Pertinent Results:
Admission labs:
===============
___ 01:15PM BLOOD WBC-15.7* RBC-2.67* Hgb-8.1* Hct-25.8* 
MCV-97 MCH-30.3 MCHC-31.4* RDW-24.4* RDWSD-86.3* Plt ___
___ 01:15PM BLOOD Neuts-83.4* Lymphs-7.2* Monos-6.5 
Eos-0.3* Baso-0.6 Im ___ AbsNeut-13.09* AbsLymp-1.13* 
AbsMono-1.02* AbsEos-0.05 AbsBaso-0.10*
___ 01:40PM BLOOD ___ PTT-29.5 ___
___ 01:15PM BLOOD UreaN-18 Creat-0.5 Na-133 K-4.3 Cl-99 
HCO3-23 AnGap-15
___ 01:15PM BLOOD ALT-53* AST-181* AlkPhos-198* 
TotBili-12.8*
___ 01:15PM BLOOD TotProt-6.0* Albumin-2.3* Globuln-3.7 
Calcium-8.3* Mg-1.7
___ 02:14PM BLOOD Lactate-2.7*
___ 05:14AM BLOOD Lactate-2.0

Microbiology:
=============
Blood Cultures - No Growth
Urine Cultures - No Growth

Pertinent Interval Labs:
========================
___ 12:43PM BLOOD WBC-13.4* RBC-2.34* Hgb-7.1* Hct-23.2* 
MCV-99* MCH-30.3 MCHC-30.6* RDW-23.5* RDWSD-82.1* Plt ___
___ 04:10AM BLOOD ALT-48* AST-171* LD(LDH)-686* 
AlkPhos-177* TotBili-11.9*
___ 05:24AM BLOOD ALT-59* AST-241* AlkPhos-188* 
TotBili-12.3*
___ 04:48AM BLOOD ALT-63* AST-240* AlkPhos-212* 
TotBili-12.2*
___ 05:21AM BLOOD ALT-56* AST-188* AlkPhos-195* 
TotBili-13.0*
___ 05:52AM BLOOD ALT-67* AST-243* AlkPhos-200* 
TotBili-14.6*
___ 03:26PM BLOOD LD(LDH)-982* TotBili-15.0* DirBili-13.2* 
IndBili-1.8
___ 04:45AM BLOOD ALT-58* AST-165* AlkPhos-245* 
TotBili-15.7*

Imaging:
========
CXR ___
AP portable upright view of the chest. Port-A-Cath in the right 
chest wall terminates in the mid SVC region. A PTBD catheter 
projects over the upper abdomen. The lung volumes are markedly 
low though lungs appear clear. The  cardiomediastinal silhouette 
appears grossly unchanged. A metallic stent isseen projecting 
over the GE junction. 

Perc GJ Placement ___
FINDINGS:  
1
.
 
S
u
c
c
e
s
s
f
u
l
 placement of a 14 ___ ___ gastrojejunostomy tube with its 
tip in the proximal jejunum.
2
.
 
 
F
i
n
d
i
n
g
s
 
of the rotational cone beam CT demonstrated the area of gas seen 
o
n
 
t
h
e
 
A
P
 
a
n
d lateral views was intraperitoneal air secondary to most recent 
f
a
i
l
e
d
 
C
T
-guided attempt to place a gastrostomy tube.  Colon was not seen
draping over the anterior surface of the stomach.

 
Brief Hospital Course:
___ with PMHx of HTN, GERD, and metastatic esophageal 
adenocarcinoma (HER2-positive, with liver metastases, s/p 
disease progression after 5 cycles of FOLFOX + trastuzumab, now 
initiated on C1D1 pembrolizumab with palliative intent on 
___, presenting with worsening obstructive jaundice and 
hematemesis. 

#Hyperbilirubinemia
#Obstructive jaundice
#Metastatic esophageal adenocarcinoma 
HER2-positive, with liver metastases, s/p disease progression 
after 5 cycles of FOLFOX + trastuzumab, s/p initiation of 
pembrolizumab with palliative
intent. Obstructive jaundice suspected to be due to compression 
of the biliary system from esophageal/gastric mass and 
metastatic hepatic lesions. ERCP attempted previously but failed 
due to inability to advance the duodenoscope past the GEJ. At 
that time, noted to have a stricture in the upper third of the 
CBD. PCBD placed on ___ by ___ and upsized on ___ with good 
biliary flow. Tbili on discharge 9.3, but bili 12.8 (8.8 dbili) 
on presentation. Denies fevers, abdominal pain. Leukocytosis to 
15.3, but chronically elevated. Low suspicion for superimposed 
cholangitis. Pt had his PTBD drain exchanged with ___, but 
unfortunately his bilirubin continued to trend up. He also had a 
GJ tube placed as he cannot tolerate any PO, and he was 
initiated on tube feeds. He was advanced to goal quickly without 
issue. A meeting was held on ___ with his outpatient oncologist 
and it was decided to send Mr. ___ home with hospice 
given his lack of improvement and poor candidacy for 
continuation of pembrolizumab.

#Hematemesis
#Melena 
#Anemia: Repeated episodes of small volume hematemesis requiring 
multiple transfusions reported during prior hospitalization. At 
that time, EGD showing slow bleed from fungating esophageal mass 
and cryotherapy performed. On ___, had a hemoglobin drop from 
10.5 to 7.2 without any episodes of hematemesis. He was 
transfused 1u PRBC, with appropriate bump. Subsequently the pt 
did have some hematemesis. For this he was given a blood 
transfusion and treated with one round of radiation to the GE 
junction. Radiation was not continued given GOC as above.

===================
TRANSITIONAL ISSUES
===================
- Pt sent home with hospice
- ___ need uptitration of pain/anxiety regimen
- pt had small volume hematemesis while in-house, which is 
expected given his oozing esophageal mass
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. LORazepam 0.5-2 mg PO Q6H:PRN nausea,anxiety,insomnia 
3. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
4. Bisacodyl 10 mg PO DAILY:PRN constipation 
5. Calcium Carbonate 500 mg PO QID:PRN heartburn 
6. Cepacol (Sore Throat Lozenge) 2 LOZ PO Q6H:PRN sore throat 
7. Maalox/Diphenhydramine/Lidocaine 30 mL PO TID:PRN dyspepsia 
8. Mirtazapine 7.5 mg PO DAILY 
9. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

  Reason for PRN duplicate override: Alternating agents for 
similar severity
10. Senna 17.2 mg PO QHS 
11. TraMADol 50 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
12. TraZODone 25 mg PO QHS:PRN insomnia 
13. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
14. Zolpidem Tartrate ___ mg PO QHS 
15. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
2.  Hyoscyamine 0.125 mg SL Q4H:PRN terminal congestion 
RX *hyoscyamine sulfate 0.125 mg 1 tablet(s) sublingually q4 
Disp #*30 Tablet Refills:*1 
3.  morphine concentrate 100 mg/5 mL (20 mg/mL) oral Q3H:PRN 
RX *morphine concentrate 100 mg/5 mL (20 mg/mL) 5 mg by mouth 
q3-4 hours Refills:*1 
4.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8 Disp #*30 Tablet 
Refills:*0 
5.  Prochlorperazine 10 mg PO Q6H:PRN nausea 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth q6 Disp 
#*30 Tablet Refills:*0 
6.  Thiamine 100 mg PO DAILY Duration: 5 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*3 Tablet Refills:*0 
7.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 1 tablet(s) by mouth q6 Disp #*30 
Tablet Refills:*0 
8.  Mirtazapine 15 mg PO DAILY 
RX *mirtazapine 15 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
9.  Senna 8.6 mg PO BID:PRN Constipation  
10.  Bisacodyl 10 mg PO DAILY:PRN constipation  
11.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
12.  Cepacol (Sore Throat Lozenge) 2 LOZ PO Q6H:PRN sore throat  

13.  Maalox/Diphenhydramine/Lidocaine 30 mL PO TID:PRN dyspepsia 
 
14.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
15.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
16.  TraMADol 50 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
17.  TraZODone 25 mg PO QHS:PRN insomnia  
18.  Zolpidem Tartrate ___ mg PO QHS  
19.tubefeeds
Osmolite 1.5 Cal or equivalent; Full strength
Goal rate: 65 ml/hr
Flush w/ free water 200 mL Q6H
___ cycle as tolerated at 95mL/hr over 16 hours

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Severe malnutrition, hematemesis from known esophageal cancer

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. 

WHY DID YOU COME TO THE HOSPITAL?
You were not eating enough at home, and your lab values were 
getting worse.

WHAT HAPPENED WHILE YOU WERE HERE?
We placed a tube into your intestines to help with feeding you, 
and you got a treatment of radiation to your esophagus to help 
with the bleeding. You had your biliary drain exchanged.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
Please continue to take all of your medications as directed, and 
follow up with all of your doctors. ___ are sending you home with 
hospice services so that you can be as comfortable as possible 
at home. If you are having any issues at home, please reach out 
to your hospice nurses and doctors.

___, it was a pleasure taking care of you, and we hope you 
will be comfortable at home.

Sincerely, 

Your ___ Team
 
Followup Instructions:
___